US08008298B2
(2-Bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1,3-dimethyl-cyclohexyl)-methanone was prepared starting from 2-bromo-5H-pyrrolo[2,3-b]pyrazine and 1,3-dimethyl cyclohexanecarbonyl chloride (Journal of Organic Chemistry (1951), 16 920-9) following general procedures as described in these Examples. M+H=336.

reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | 1,3-dimethyl cyclohexanecarbonyl chloride | CC1(CC(CCC1)C)C(=O)Cl | C9H15ClO
product | (2-Bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1,3-dimethyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CC(CCC2)C)C | C15H18BrN3O
